US04833134
In 100 ml of ethanol were suspended 6.66 g of 4-mercaptopyridine and 16.9 g of N-(4-bromobutyl)phthalimide. To the suspension was added 9.09 g of triethylamine, and the mixture was stirred at room temperature for 4 hours. The solvent was distilled off under reduced pressure. To the residue was added 300 ml of water, and the mixture was subjected to extraction twice with dichloromethane. The extract solutions were combined, washed with an aqueous saline solution, then dried over magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was subjected to a silica gel (500 g) column chromatography, using as the developer a mixture of hexane and ethyl acetate (1:2), followed by elution with ethyl acetate. The eluate was concentrated under reduced pressure. To the concentrate were added ethyl acetate and hexane. Resulting powders were collected by filtration to give N-[4-(4-pyridylthio)butyl]phthalimide as a colorless powdery product, m.p. 106.5°-107.5° C.

reactant | 4-mercaptopyridine | 6.66 g | SC1=CC=NC=C1 | C5H5NS
reactant | N-(4-bromobutyl)phthalimide | 16.9 g | BrCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C12H12BrNO2
reactant | triethylamine | 9.09 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | N-[4-(4-pyridylthio)butyl]phthalimide | N1=CC=C(C=C1)SCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C17H16N2O2S
